US07659268B2
To a solution of 2-(3-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.1 g, 12 mmol) in HBr (48%, 24 mL) and H2O (4.8 mL) was added NaNO2 (990 mg, 14 mmol) in H2O (3 mL) dropwise at 0° C. The mixture was stirred at 0° C. for 30 minutes and was then added to a solution of CuBr (6.9 g, 48 mmol) in HBr (48%, 24 mL) and H2O (4.8 mL) at 0° C. The mixture was stirred at 0° C. for 30 min. The mixture was partitioned between ethyl acetate and H2O. The aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine and dried over MgSO4. Solvent was removed and the residue was purified by column chromatography (0-20% ethyl acetate-hexane) to yield 2-(3-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.1 g, 79%). 1H NMR (400 MHz, CDCl3) δ 7.83 (s, 1H), 7.57 (t, J=0.8 Hz, 1H), 7.55 (t, J=0.9 Hz, 1H), 7.27 (t, J=8.0 Hz, 1H), 3.62 (s, 1H).

reactant | 2-(3-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 12 mmol, 3.1 g | NC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | NaNO2 | 14 mmol, 990 mg | N(=O)[O-].[Na+]
reactant | HBr | 24 mL | Br | BrH
reactant | HBr | 24 mL | Br | BrH
solvent | H2O | 4.8 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 4.8 mL | O | H2O
product | 2-(3-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.1 g, 79% | BrC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
